US07632791B2
(3R*,11S*)-11-Methyl-1-oxadispiro[2.0.6.3]tridecan-13-one (800 mg, 3.84 mmol) was reduced with lithium aluminum hydride (440 mg, 11.5 mmol) in Et2O (2 mL+4 mL) at ambient temp. for 16 h. Quenching with water (5 mL) and aq. HCl (5 N, 5 mL), usual extraction and purification by silica-gel FC (pentane/Et2O, 2:1, Rf=0.16) furnished (1R*,2R*,4S*)-/(1R*,2S*,4S*)-1,4-dimethylspiro[4.6]undecane-1,2-diol (620 mg, 76%).

reactant | (3R*,11S*)-11-Methyl-1-oxadispiro[2.0.6.3]tridecan-13-one | 3.84 mmol, 800 mg | C[C@@H]1C2([C@@]3(CO3)C(C1)=O)CCCCCC2 | C13H20O2
reactant | lithium aluminum hydride | 11.5 mmol, 440 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | Et2O | 2 mL | CCOCC | C4H10O
product | (1R*,2S*,4S*)-1,4-dimethylspiro[4.6]undecane-1,2-diol | 620 mg, 76% | C[C@@]1([C@H](C[C@@H](C12CCCCCC2)C)O)O | C13H24O2
